### PR TITLE
feat(GreensOpenProblems): 38

### LINKED ISSUE #1594: Green's Open Problems #38
### What is the conjecture
https://people.maths.ox.ac.uk/greenbj/papers/open-problems.pdf#problem.38

What is the largest subset $A \subset \mathbb{F}_7^n$ for which $A - A$ intersects $\\{-1, 0, 1\\}^n$ only at $0$?

### [AMS categories](https://github.com/google-deepmind/formal-conjectures/labels?q=ams-)

* ams-05
* ams-11

### Choose either option
- [ ] I plan on adding this conjecture to the repository
- [x] This issue is up for grabs: I would like to see this conjecture added by somebody else

### PR DESCRIPTION
**Pull request by jeangud**
# Description
> What is the largest subset $A \subset \mathbb{F}_7^n$ for which $A - A$ intersects $\lbrace -1, 0, 1\rbrace^n$ only at $0$?

- Closes #1594
- According to [[La79]](https://people.orie.cornell.edu/miketodd/cornellonly/or637/lovshannon.pdf) and [[Po20]](https://arxiv.org/pdf/2005.02945), the problem is interpreted as 1) an asymptotic statement, 2) asking for bounds more than an exact form.
- Proposed as an improvement over currently best-known bounds.
- I tried adding a couple tests this time.
- :robot: Initial draft generated with **Gemini 3.1 Pro**, and heavily reworked to simplify syntax, notations, and promote constructs re-use.

# Testing
:white_check_mark: Builds successfully
```shell
$ lake build FormalConjectures/GreensOpenProblems/38.lean 
Build completed successfully (7982 jobs).
```

### CODE REVIEW

File: FormalConjectures/GreensOpenProblems/38.lean [hunk 1]
```diff
@@ -0,0 +1,107 @@
...
+abbrev 𝔽₇ (n : ℕ) := Fin n → ZMod 7
+
+/-- $A - A$ intersects $\{-1, 0, 1\}^n$ only at $0$. -/
+def IntersectsOnlyAtZero {n : ℕ} (A : Finset (𝔽₇ n)) : Prop :=
+  ∀ a ∈ A - A, (∀ i, a i ∈ ({-1, 0, 1} : Finset (ZMod 7))) → a = 0
+
+/-- The set of cardinalities of all subsets A where A - A intersects {-1, 0, 1}^n only at 0. -/
+def ValidCardinalities (n : ℕ) : Set ℕ :=
+  { (A.card) | (A : Finset (𝔽₇ n)) (_ : IntersectsOnlyAtZero A) }
+
```
Comment (mo271) [inline FormalConjectures/GreensOpenProblems/38.lean:45]:
```suggestion

/-- {0, 2, 4} is a valid independent set in C_7, giving cardinality 3. -/
@[category test, AMS 5]
theorem green_38.test_n1_lower :
    3 ∈ ValidCardinalities 1 := by
  refine ⟨{![0], ![2], ![4]}, ?_, by decide⟩
  intro a ha
  simp at ha ⊢
  -- a is a difference of elements from {0, 2, 4}, check all cases
  cases ha
  · norm_num [← List.ofFn_injective.eq_iff]
    decide
  · revert ‹_›
    use by decide+revert ∘ List.mem_cons.1


```
Potentially another good test statement?

**Review by mo271 — APPROVED** [review]
Thanks, LGTM!

File: FormalConjectures/GreensOpenProblems/38.lean (hunk 1 above)
Comment (jeangud) [reply FormalConjectures/GreensOpenProblems/38.lean:45]: Good idea, yes that works! Thank you for the review @mo271
